US07662828B2
Trifluoroacetic acid 7.3 ml (96 mmol) was added to a solution of 2-(4-ethyl-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester 567 mg (1.48 mmol) in CH2Cl2 (10 ml) under nitrogen as inert gas and stirring was performed for 1.5 h at RT. After removal of the solvent, the intermediate (4-ethyl-N-(5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-benzamide trifluoroacetate) was dissolved in CH2Cl2 (10 ml). After the addition of triethylamine 1150 μl (8.20 mmol), the solution was cooled to 0° C. and 3-thiophene sulfonyl chloride 253 mg (1.39 mmol) was added. The reaction mixture was stirred for 1 h at 0° C. and then overnight at RT. After removal of the solvent, purification was performed by means of column chromatography and the product 4-ethyl-N-[6-(thiophene-3-sulfonyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-benzamide 400 mg (0.93 mmol, 63% of theoretical) was obtained.

reactant | Trifluoroacetic acid | 96 mmol, 7.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-ethyl-benzoylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 1.48 mmol, 567 mg | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)NC(C2=CC=C(C=C2)CC)=O)CC1 | C21H26N4O3
reactant | triethylamine | 8.20 mmol, 1150 μl | C(C)N(CC)CC | C6H15N
reactant | 3-thiophene sulfonyl chloride | 1.39 mmol, 253 mg | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-ethyl-N-[6-(thiophene-3-sulfonyl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl]-benzamide | 0.93 mmol, 400 mg, 63% | C(C)C1=CC=C(C(=O)NC=2N=CC3=C(N2)CCN(C3)S(=O)(=O)C3=CSC=C3)C=C1 | C20H20N4O3S2
